US06974870B2
3-Amino-4-piperazin-1-yl-thieno[2,3-b]pyridine-2-carboxylic acid amide
A solution of 18 mg 4-(3-amino-2-carbamoyl-thieno[2,3-b]pyridin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester in 1 mL CH2Cl2+1 mL trifluoroacetic acid was stirred with a drying tube for 4 h at room temperature. The reaction was concentrated in vacuo and developed prep plate in 25% MeOH—CH2Cl2−2% NH4OH and the band was eluted with 50% MeOH—CH2Cl2 to get an oil that was re-dissolved 10% MeOH—CH2Cl2, filtered, concentrated, and dried in vacuo at 60° C. to provide 4.6 mg of the product as a yellow solid.

reactant | 4-(3-amino-2-carbamoyl-thieno[2,3-b]pyridin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 18 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(=NC=C1)SC(=C2N)C(N)=O | C17H23N5O3S
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-Amino-4-piperazin-1-yl-thieno[2,3-b]pyridine-2-carboxylic acid amide | 4.6 mg | NC1=C(SC2=NC=CC(=C21)N2CCNCC2)C(=O)N | C12H15N5OS
